US06642394B2
A glass flask equipped with a stirrer, a dropping funnel, a thermometer, a Liebig condenser and a receiver was charged with 8.61 g (0.1 mol) of methacrylic acid, 7.66 g (0.075 mol) of acetic anhydride, 0.037 g (3.8×10−4 mol) of phosphoric acid and 0.009 g of HO-TEMPO, and the mixture was heated and stirred at 60° C. for 20 hours. After cooling the reaction mixture, 75 ml of n-hexane was added, and the mixture was washed with 75 ml of water twice, neutralization-washing was performed with 75 ml of aqueous solution of sodium hydroxide (pH=13.2) 3 times, washed with 75 ml of water once, and the hexane layer of the mixture was concentrated to obtain 2.45 g of methacrylic anhydride of 97% purity. The isolation yield of methacrylic anhydride was 31% on the basis of methacrylic acid as starting material.

reactant | methacrylic acid | 0.1 mol, 8.61 g | C(C(=C)C)(=O)O | C4H6O2
reactant | acetic anhydride | 0.075 mol, 7.66 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | TEMPO | CC1(CCCC(N1[O])(C)C)C | C9H18NO
catalyst | phosphoric acid | 3.8×10−4 mol, 0.037 g | P(O)(O)(O)=O | H3O4P
solvent | n-hexane | 75 ml | CCCCCC | C6H14
product | methacrylic anhydride | 2.45 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
